US07935815B2
Synthesis of 3-(tert-butyldiphenylsilanyloxy)-1-methylpropyl toluene-4-sulfonate
Triethylamine (4.64 mL), p-toluenesulfonyl chloride (4.66 g) and DMAP (271 mg) were added to a solution of 4-(tert-butyldiphenylsilanyloxy)butan-2-ol (7.3 g; CAS #114079-44-6) in 1,2-dichloroethane (80 mL) at 0° C., and the reaction solution was stirred at 60° C. for three hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. Ethyl acetate and brine were added to the residue, and the organic layer was separated. The resulting organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 6.4 g of the title compound. The property value of the compound is as follows.

reactant | Triethylamine | 4.64 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 4.66 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4-(tert-butyldiphenylsilanyloxy)butan-2-ol | 7.3 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(C)O | C20H28O2Si
catalyst | DMAP | 271 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,2-dichloroethane | 80 mL | ClCCCl | C2H4Cl2
product | 3-(tert-butyldiphenylsilanyloxy)-1-methylpropyl toluene-4-sulfonate | 6.4 g | C1(=CC=C(C=C1)S(=O)(=O)OC(CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C)C | C27H34O4SSi
